US04281000
7-(5-Methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A miture of 0.01 mole of 3-dimethylamino-1-(5-methyl-2-pyridyl)-2-propen-1-one and 0.01 mole of 3-aminopyrazole-4-carbonitrile in glacial acetic acid is refluxed for 8 hours and worked up as for Example 53 to give the product of the example.

reactant | 3-dimethylamino-1-(5-methyl-2-pyridyl)-2-propen-1-one | 0.01 mole | CN(C=CC(=O)C1=NC=C(C=C1)C)C | C11H14N2O
reactant | 3-aminopyrazole-4-carbonitrile | 0.01 mole | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(5-Methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | CC=1C=CC(=NC1)C1=CC=NC=2N1N=CC2C#N | C13H9N5
